US07071177B2
To 5.0 mL (40.19 mmol) of 4-(methylthio)aniline dissloved in 25 mL dichloromethane was added 5.59 mL (40.19 mmol) 4-ethoxybenzaldehyde followed by 12.78 g (60.28 mmol) sodium triacetoxyborohydride. The mixture was stirred at overnight at room temperature, partitioned between EtOAc and brine, dried over MgSO4 and concentrated. Crystallization from dichloromethane/hexane, provided 7.87 g of (4-Ethoxy-benzyl)-(4-methylsulfanylphenyl)-amine, pure by 1H NMR.

reactant | 4-(methylthio)aniline | 40.19 mmol, 5.0 mL | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | 4-ethoxybenzaldehyde | 40.19 mmol, 5.59 mL | C(C)OC1=CC=C(C=O)C=C1 | C9H10O2
reactant | sodium triacetoxyborohydride | 60.28 mmol, 12.78 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (4-Ethoxy-benzyl)-(4-methylsulfanylphenyl)-amine | 7.87 g | C(C)OC1=CC=C(CNC2=CC=C(C=C2)SC)C=C1 | C16H19NOS
